US07687495B2
g) (S)-4-(4-Methoxy-phenyl)-6-oxo-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid benzyl ester
To a solution of 1.8 g of (S)-4-(4-methoxy-phenyl)-6-oxo-3,6-dihydro-2H-pyridine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester in 15 ml of 1,4 dioxane are added 1.2 ml of 4N hydrochloric acid in 1,4 dioxane at room temperature. The reaction mixture is stirred for 1 hour and concentrated under reduced pressure to afford the title compound as an off white solid. Rf=0.1 (EtOAc-heptane 1:1); Rt=3.94.

reactant | (S)-4-(4-methoxy-phenyl)-6-oxo-3,6-dihydro-2H-pyridine-1,2-dicarboxylic acid 2-benzyl ester 1-tert-butyl ester | 1.8 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(=CC1=O)C1=CC=C(C=C1)OC)C(=O)OCC1=CC=CC=C1 | C25H27NO6
reactant | hydrochloric acid | 4N, 1.2 ml | Cl | ClH
solvent | 1,4 dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (S)-4-(4-Methoxy-phenyl)-6-oxo-1,2,3,6-tetrahydro-pyridine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1NC(C=C(C1)C1=CC=C(C=C1)OC)=O | C20H19NO4
